US09370515B2
Preparation of 5-(6-chloroimidazo[1,2-b]pyridazin-3-yl)thiophene-2-carbaldehyde
To a solution of 6-chloroimidazo[1,2-b]pyridazine (1.55 g, 10.1 mmol, 1.0 equiv) in toluene (10.0 mL) was added 5-bromothiophene-2-carbaldehyde (1.80 mL, 15.1 mmol, 1.5 equiv), potassium carbonate (2.79 g, 20.2 mmol, 2.0 equiv), triphenyl phosphine (529 mg, 2.02 mmol, 0.2 equiv) and potassium acetate (227 mg, 1.01 mmol, 0.1 equiv). The reaction mixture was heated to reflux for 24 h then diluted with water and extracted with ethyl acetate. Purification by column chromatography using 50% ethyl acetate in hexanes elution gave 1.60 g of the white solid, 60%.

reactant | 6-chloroimidazo[1,2-b]pyridazine | 10.1 mmol, 1.55 g, 1.0 equiv | ClC=1C=CC=2N(N1)C=CN2 | C6H4ClN3
reactant | 5-bromothiophene-2-carbaldehyde | 15.1 mmol, 1.80 mL, 1.5 equiv | BrC1=CC=C(S1)C=O | C5H3BrOS
reactant | potassium carbonate | 20.2 mmol, 2.79 g, 2.0 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | triphenyl phosphine | 2.02 mmol, 529 mg, 0.2 equiv | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium acetate | 1.01 mmol, 227 mg, 0.1 equiv | C(C)(=O)[O-].[K+]
solvent | toluene | 10.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 5-(6-chloroimidazo[1,2-b]pyridazin-3-yl)thiophene-2-carbaldehyde | 1.60 g | ClC=1C=CC=2N(N1)C(=CN2)C2=CC=C(S2)C=O | C11H6ClN3OS
